US07576089B2
tert-Butyl [(3S)-1-({1-[4-(Trifluoromethyl)pyridin-2-yl]-1H-imidazol-4-yl}carbonyl)pyrrolidin-3-yl]carbamate
To a solution of 1-[4-(trifluoromethyl)pyridin-2-yl]-1H-imidazole-4-carboxylic acid (120 mg, 0.47 mmol) and tert-butyl (3S)-pyrrolidin-3-ylcarbamate (87 mg, 0.47 mmol) in DMF (3 mL) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (210 mg, 0.47 mmol) followed by triethylamine (0.20 mL, 1.4 mmol). The reaction was stirred at room temperature overnight and purified by HPLC to give the title compound. MS (M+H) 426.3.

reactant | 1-[4-(trifluoromethyl)pyridin-2-yl]-1H-imidazole-4-carboxylic acid | 0.47 mmol, 120 mg | FC(C1=CC(=NC=C1)N1C=NC(=C1)C(=O)O)(F)F | C10H6F3N3O2
reactant | tert-butyl (3S)-pyrrolidin-3-ylcarbamate | 0.47 mmol, 87 mg | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.47 mmol, 210 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 1.4 mmol, 0.20 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-Butyl [(3S)-1-({1-[4-(Trifluoromethyl)pyridin-2-yl]-1H-imidazol-4-yl}carbonyl)pyrrolidin-3-yl]carbamate | FC(C1=CC(=NC=C1)N1C=NC(=C1)C(=O)N1C[C@H](CC1)NC(OC(C)(C)C)=O)(F)F | C19H22F3N5O3
